US05344843
A solution of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.50 g in 5 mL of dimethylformamide was treated with 60% sodium hydride (0.112 g) and after 15 minutes, 2-bromomethylnaphthalene (0.61 g) was added. The reaction mixture was stirred 45 minutes at room temperature, was quenched with 0.1 mL of acetic acid and was diluted with diethyl ether-ethyl acetate (10: 1, 50 mL). The mixture was washed with water (2×10 mL) and brine (1×10 mL), dried (1MgSO4) and chromatographed over 100 g of silica gel eluting with dichloromethane-hexane (1:1) to give 0.61 g of 4-[(2-naphthalenyl)methoxy]alpha-oxobenzeneacetic acid methyl ester, mp 101°-102° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.112 g | [H-].[Na+]
reactant | 2-bromomethylnaphthalene | 0.61 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[(2-naphthalenyl)methoxy]alpha-oxobenzeneacetic acid methyl ester | 0.61 g | COC(C(C1=CC=C(C=C1)OCC1=CC2=CC=CC=C2C=C1)=O)=O | C20H16O4
